US07713979B2
1-bromo-3-bromomethyl-4-chloro-2-fluorobenzene
Add phosphorous tribromide (1.8 mL, 19.2 mmol) to (3-bromo-6-chloro-2-fluoro-phenyl)methanol (Preparation 8) (4.6 g, 19 mmol) in dichloromethane (50 mL) at 0° C. Stir for 20 minutes. Add the reaction mixture into ice and water. Extract with dichloromethane (100 mL), dry with magnesium sulfate, filter and evaporate solvent under reduced pressure. Purify the residue by biotage chromatography to yield the product to give 1.7 g (30%) of the title compound as a white solid. 1HNMR (CDCl3) 7.48-7.44 (m, 1H), 7.14-7.11 (m, 1H), 4.62-4.61(m, 2H).

reactant | phosphorous tribromide | 19.2 mmol, 1.8 mL | P(Br)(Br)Br | Br3P
reactant | (3-bromo-6-chloro-2-fluoro-phenyl)methanol | 19 mmol, 4.6 g | BrC=1C(=C(C(=CC1)Cl)CO)F | C7H5BrClFO
reactant | water | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-bromo-3-bromomethyl-4-chloro-2-fluorobenzene | 1.7 g, 30% | BrC1=C(C(=C(C=C1)Cl)CBr)F | C7H4Br2ClF
